US05494949
110 mg of butylpyrocatechol (as a polymerization inhibitor) and 180 g of dry Na2CO3 (anhydrous) are added to 167.4 g (0.8 mol) of dimethyl aminoterephthalate in 3 1 of acetone. 89 g (0.85 mol) of vinylacetyl chloride are added dropwise to this mixture at 35°-40 ° C. in the course of 20 minutes and the mixture is then boiled under reflux for 4 hours. The filtered solution is concentrated to 1 1 and the concentrate is crystallized in the cold. The crystals of dimethyl N-butenoylaminoterephthalate isolated are recrystallized once from 1.2 1 of methanol and then from a mixture of 426 ml of ethyl acetate and 344 ml of methanol.

reactant | butylpyrocatechol | 110 mg | C(CCC)C1=C(C(O)=CC=C1)O | C10H14O2
reactant | Na2CO3 | 180 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethyl aminoterephthalate | 0.8 mol, 167.4 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H11NO4
reactant | vinylacetyl chloride | 0.85 mol, 89 g | C(=C)CC(=O)Cl | C4H5ClO
solvent | acetone | CC(=O)C | C3H6O
product | dimethyl N-butenoylaminoterephthalate | C(C=CC)(=O)NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C14H15NO5
